US04242507
In 1 N aqueous sodium hydroxide (45 ml) is dissolved 1-hydroxy-6-nitro-1,2,3-benzotriazole (7.2 g). To the solution is added dropwise benzenesulfonyl chloride (7.0 g) with stirring at room temperature and further are added thereto water (50 ml) and ethyl acetate (100 ml) and the mixture is stirred for 1 hour. The ethyl acetate layer is separated, dried over magnesium sulfate-charcoal, filtered and concentrated until it becomes about 30 ml. n-Hexane (50 ml) is thereto added and the mixture is allowed to stand. The precipitated crystals are separated by filtration and dried to give faint yellow prisms of 1-benzenesulfonyloxy-6-nitro-1,2,3-benzotriazole (6.8 g), melting point: 122°-124° C. The product is recrystallized from ethyl acetate-n-hexane to give a pure product: melting point: 124° C.

reactant | 1-hydroxy-6-nitro-1,2,3-benzotriazole | 7.2 g | ON1N=NC2=C1C=C(C=C2)[N+](=O)[O-] | C6H4N4O3
reactant | benzenesulfonyl chloride | 7.0 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 1 N, 45 ml | [OH-].[Na+]
product | 1-benzenesulfonyloxy-6-nitro-1,2,3-benzotriazole | 6.8 g | C1(=CC=CC=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)[N+](=O)[O-] | C12H8N4O5S
